US08008305B2
b) N-[2-(4-Chloro-phenyl)-ethyl]-6-(4-cyclopropylmethyl-piperazin-1-yl)-nicotinamide
In analogy to example 1.a 6-chloro-N-[2-(4-chloro-phenyl)-ethyl]-nicotinamide was reacted with 1-(cyclopropylmethyl)piperazine. Off-white solid. MS (ISP): 399.3 ([M+H]+)

reactant | 6-chloro-N-[2-(4-chloro-phenyl)-ethyl]-nicotinamide | ClC1=NC=C(C(=O)NCCC2=CC=C(C=C2)Cl)C=C1 | C14H12Cl2N2O
reactant | 1-(cyclopropylmethyl)piperazine | C1(CC1)CN1CCNCC1 | C8H16N2
product | N-[2-(4-Chloro-phenyl)-ethyl]-6-(4-cyclopropylmethyl-piperazin-1-yl)-nicotinamide | ClC1=CC=C(C=C1)CCNC(C1=CN=C(C=C1)N1CCN(CC1)CC1CC1)=O | C22H27ClN4O
